US08357711B2
4-[(1,3-Thiazol-2-ylamino)sulfonyl]-N-(2-thienylmethyl)benzamide
4-Iodo-N-1,3-thiazol-2-ylbenzenesulfonamide Preparation 98, 200 mg, 0.5 mmol), thiophene-2-methanamine (280 uL, 2.7 mmol), hexacarbonylmolybdenum (70 mg, 0.3 mmol), palladium(II) acetate (6 mg, 0.03 mmol), and sodium carbonate (170 mg, 1.6 mmol) in water (1.1 mL, 61 mmol) was heated 30 min at 110° C. in the microwave. The reaction mixture was diluted with 1 N HCl and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in methylene chloride/MeOH and MP-Carbonate (2.73 mmol/g loading; 1.0 g, 2.73 mmol) was added. After stirring 1 h, LC/MS analysis indicated complete capture of the target compound. The resin was washed with methylene chloride then stirred in 8:1 methylene chloride/AcOH. LC/MS analysis indicated the target compound was released from the resin (not quantified). The material was further purified on the Isco (12 g SiO2, ethyl acetate to 4:1 ethyl acetate-MeOH).

reactant | 4-Iodo-N-1,3-thiazol-2-ylbenzenesulfonamide | IC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7IN2O2S2
reactant | thiophene-2-methanamine | 2.7 mmol, 280 uL | S1C(=CC=C1)CN | C5H7NS
reactant | sodium carbonate | 1.6 mmol, 170 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 61 mmol, 1.1 mL | O | H2O
reactant | Carbonate | 2.73 mmol, 1.0 g | C([O-])([O-])=O
solvent | HCl | 1 N | Cl | ClH
catalyst | hexacarbonylmolybdenum | 0.3 mmol, 70 mg | C(=O)=[Mo](=C=O)(=C=O)(=C=O)(=C=O)=C=O
catalyst | palladium(II) acetate | 0.03 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[(1,3-Thiazol-2-ylamino)sulfonyl]-N-(2-thienylmethyl)benzamide | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C(=O)NCC=2SC=CC2)C=C1 | C15H13N3O3S3
